US03953457
EXAMPLE 2: 1-PROPYL-S-TRIAZOLO(4,3-a)QUINOLINE
2-Hydrazinoquinoline (5.0 grams) was placed in a 250-milliliter three-necked flask equipped with a mechanical stirrer and a reflux condenser. To the flask was added 100 milliliters of n-butanoic acid. The reaction mixture was allowed to reflux overnight. In the morning the reaction mixture was cooled and then made basic by the addition of sodium hydroxide. The desired 1-propyl-s-triazolo(4,3-a)quinoline product was extracted from this solution with methylene chloride and the methylene chloride subsequently stripped off. The product was recrystallized from ethanol, m.p., 158.5°-9.5°C.

reactant | 2-Hydrazinoquinoline | 5.0 grams | N(N)C1=NC2=CC=CC=C2C=C1 | C9H9N3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | n-butanoic acid | 100 milliliters | C(CCC)(=O)O | C4H8O2
product | 1-PROPYL-S-TRIAZOLO(4,3-a)QUINOLINE | C(CC)C1=NN=C2N1C1=CC=CC=C1C=C2 | C13H13N3
